US08012986B2
6′-(3-Bromo-phenyl)-2′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl
The title compound was prepared from trifluoro-methanesulfonic acid 6′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl ester (example A.5) (0.773 g, 2.0 mmol) and commercially available 3-bromo-benzene-boronic acid (0.43 g, 2.1 mmol) according to the general procedure IIb. Obtained as a white solid (0.69 g, 88%). MS (ISP) 393.1 [(M+H)+] and 395.1 [(M+2+H)+].

reactant | trifluoro-methanesulfonic acid 6′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl ester | 2.0 mmol, 0.773 g | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C13H8F6N2O3S
reactant | 3-bromo-benzene-boronic acid | 2.1 mmol, 0.43 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 6′-(3-Bromo-phenyl)-2′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl | BrC=1C=C(C=CC1)C1=CC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C18H12BrF3N2
